US06562849B1
1-(4-[2-[4-(2,4-Dioxothiazolidin-5-ylmethyl)phenoxymethyl]-1-methyl-1H-benzimidazol-6-yloxy]phenyl)-1-n-hexyl-3-(4-fluorophenyl)urea (exemplification compound number 1-203)
A mixture of 5-[4-[6-(4-n-hexylaminophenoxy)-1-methyl-1H-benzimidazol-2-ylmethoxy]benzyl]thiazolidine-2,4-dione (0.39 g), 4-fluorophenyl isocyanate (0.11 g) and anhydrous tetrahydrofuran (20 ml) was allowed to stand at room temperature for 2 days. The reaction mixture was concentrated and partitioned between ethyl acetate and water. The extract was dried over anhydrous sodium sulfate and then concentrated. The residue was chromatographed on a silica gel column using ethyl acetate:n-hexane=3:2 as the eluant and the product was reprecipitated from a mixture of ethyl acetate and diisopropyl ether to afford the title compound (0.32 g, Rf=0.45: thin layer chromatography on a silica gel plate using ethyl acetate:n-hexane=2:1 as the eluant).

reactant | 5-[4-[6-(4-n-hexylaminophenoxy)-1-methyl-1H-benzimidazol-2-ylmethoxy]benzyl]thiazolidine-2,4-dione | 0.39 g | C(CCCCC)NC1=CC=C(OC=2C=CC3=C(N(C(=N3)COC3=CC=C(CC4C(NC(S4)=O)=O)C=C3)C)C2)C=C1 | C31H34N4O4S
reactant | 4-fluorophenyl isocyanate | 0.11 g | FC1=CC=C(C=C1)N=C=O | C7H4FNO
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 1-(4-[2-[4-(2,4-Dioxothiazolidin-5-ylmethyl)phenoxymethyl]-1-methyl-1H-benzimidazol-6-yloxy]phenyl)-1-n-hexyl-3-(4-fluorophenyl)urea | O=C1SC(C(N1)=O)CC1=CC=C(OCC2=NC3=C(N2C)C=C(C=C3)OC3=CC=C(C=C3)N(C(=O)NC3=CC=C(C=C3)F)CCCCCC)C=C1 | C38H38FN5O5S
